US07723333B2
[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]acetic acid
Methyl [(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]acetate (1.28 g, 3.64 mmol) was dispersed in a mixture of dioxane (20 mL), MeOH (20 mL) and water (20 mL). Aqueous LiOH (1M, 0.218 g, 9.10 mmol) was added and the reaction mixture was stirred at rt for 2 h. Aqueous HCl was carefully added to the reaction mixture to give the pH˜1 and the resulting mixture was extracted with DCM. The organic phases were combined, dried over Na2SO4, filtered, evaporated and the crude residue was purified by preparative HPLC giving the title compound (0.51 g, 41%). 1H-NMR (CD3OD, 500 MHz): δ 7.52-7.48 (m, 2H), 7.46-7.42 (m, 3H), 5.41 (brs, 8H) 1.95 (s, 2H), 1.71 (s, 9H); 13C-NMR (CD3OD, 125 MHz): δ 178.4, 174.8, 160.8, 136.5, 132.8, 130.4, 129.5, 126.6, 107.4, 62.1, 48.3, 27.9, 22.9.

reactant | Methyl [(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]acetate | 3.64 mmol, 1.28 g | C(C)(C)(C)N1S(C(=C(C1=O)NCC(=O)OC)C1=CC=CC=C1)(=O)=O | C16H20N2O5S
reactant | MeOH | 20 mL | CO | CH4O
reactant | LiOH | 9.10 mmol, 1M, 0.218 g | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | [(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]acetic acid | 0.51 g, 41% | C(C)(C)(C)N1S(C(=C(C1=O)NCC(=O)O)C1=CC=CC=C1)(=O)=O | C15H18N2O5S
